US05364871
1N-Aqueous sodium hydroxide (10 ml) was added to a suspension of 4-(4-cyanopyridin-2-yl)-2-(diaminomethyleneamino)thiazole hydrobromide (1.00 g) in a mixture of methanol (10 ml) and tetrahydrofuran (10 ml). After the mixture was stirred for one day at ambient temperature, the solvent was evaporated in vacuo and the residue was mixed with water (10 ml). The resulting precipitate was collected by filtration, washed with water and recrystallized from a mixture of N,N-dimethylformamide and water to give 4-(4-carbamoylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (0.45 g).

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | 4-(4-cyanopyridin-2-yl)-2-(diaminomethyleneamino)thiazole hydrobromide | 1.00 g | Br.C(#N)C1=CC(=NC=C1)C=1N=C(SC1)N=C(N)N
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-carbamoylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 0.45 g | C(N)(=O)C1=CC(=NC=C1)C=1N=C(SC1)N=C(N)N | C10H10N6OS
